US04079181
A solution of p-nitrobenzyl α-[4-mercapto-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(2-bromo-1-hydroxyethylidene)acetate prepared by the method of Example 4.-III (2) (70 mg) in a mixture of methylene chloride (2 ml), methanol (2 ml), and 10% hydrochloric acid (0.3 ml) is stirred at room temperature for 2 hours. The reaction mixture is poured into ice water, and is extracted with methylene chloride. The extract solution is washed with water, dried over magnesium sulfate, and evaporated to give p-nitrobenzyl 3-oxo-7-phenoxyacetamidocepham-4-carboxylate (44.5 mg), identical with the product of Example 4.-III (3). Yield: 74%.

reactant | p-nitrobenzyl α-[4-mercapto-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(2-bromo-1-hydroxyethylidene)acetate | SC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(CBr)O)=O)NC(COC1=CC=CC=C1)=O | C22H20BrN3O8S
reactant | methanol | 2 ml | CO | CH4O
reactant | hydrochloric acid | 0.3 ml | Cl | ClH
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | p-nitrobenzyl 3-oxo-7-phenoxyacetamidocepham-4-carboxylate | 44.5 mg, Yield: 74% | O=C1CS[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2NC(COC2=CC=CC=C2)=O)=O | C22H19N3O8S
